US08497281B2
Step 2: 3-(3-methoxy-phenyl)-pyridine-2-carboxylic acid
A mixture of 3-(3-methoxyphenyl)-pyridine-2-carbonitrile (12.00 g), 15 M aqueous NaOH solution (40 mL), and methanol (60 mL) is stirred at reflux temperature for 7 h. After cooling to room temperature, most of the methanol is evaporated and the residue is cooled in an ice bath and adjusted to pH value ca. 4-5 by the careful addition of concentrated hydrochloric acid. The resulting mixture is concentrated to ca. 50 ml by evaporation and extracted with dichloromethane/methanol (9:1) several times. The aqueous phase is then adjusted to pH value 2-3 using concentrated hydrochloric acid and extracted again with dichloromethane/methanol (9:1). The combined extracts are dried (Na2SO4) and the solvent is evaporated to give the title compound as a foam-like solid. Yield: 11.88 g (91% of theory); LC (method 1): tR=1.70 min; Mass spectrum (ESI+): m/z=230 [M+H]+.

reactant | 3-(3-methoxyphenyl)-pyridine-2-carbonitrile | 12.00 g | COC=1C=C(C=CC1)C=1C(=NC=CC1)C#N | C13H10N2O
reactant | NaOH | 15 M, 40 mL | [OH-].[Na+]
reactant | methanol | CO | CH4O
reactant | methanol | 60 mL | CO | CH4O
product | 3-(3-methoxy-phenyl)-pyridine-2-carboxylic acid | COC=1C=C(C=CC1)C=1C(=NC=CC1)C(=O)O | C13H11NO3
